US03966938
cis-1,2,3,4,4a,10b-Hexahydro-8,9-dimethoxy-2-methyl-6-phenyl-benzo[c][1,6]naphthyridine.
18 g of cis-4-benzoylamino-3-(3,4-dimethoxyphenyl)-1-methylpiperidine are boiled under reflux in 100 cc of phosphorus oxychloride for 11/2 hours. The reaction mixture is subsequently evaporated to dryness in a vacuum and the resulting oily residue is shaken with methylene chloride and a 2 N caustic soda solution. The organic phase is dried over sodium sulphate and concentrated by evaporation. Crystallization from ethyl acetate yields the title compound as almost colourless crystals having a M.P. of 126°-127°.

reactant | cis-4-benzoylamino-3-(3,4-dimethoxyphenyl)-1-methylpiperidine | 18 g | C(C1=CC=CC=C1)(=O)N[C@@H]1[C@@H](CN(CC1)C)C1=CC(=C(C=C1)OC)OC | C21H26N2O3
solvent | phosphorus oxychloride | 100 cc | P(=O)(Cl)(Cl)Cl | Cl3OP
product | cis-1,2,3,4,4a,10b-Hexahydro-8,9-dimethoxy-2-methyl-6-phenyl-benzo[c][1,6]naphthyridine | COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=CC=C2)C1)OC | C21H24N2O2
